US08222263B2
A solution of 2-aminophenyl-2-pyridyl ketone (0.95 g, 4.8 mmol), urea (500 mg, 8.3 mmol) and acetic acid (10 mL) was stirred at 110° C. for 18 h. The reaction mixture was cooled to rt and filtered. The solid was washed with water and dried under reduced pressure to give 4-(pyridin-2-yl)quinazolin-2(1H)-one as a yellow solid (0.83 g, 78%), which was dissolved in phosphorous oxychloride (3 mL) and the mixture was stirred at reflux for 30 min. The reaction mixture was cooled to rt and slowly poured over an ice/water mixture. The mixture was filtered and the solid was dried under reduced pressure to give 2-chloro-4-(pyridin-2-yl)quinazoline as an off-white solid (56 mg, 6%).

reactant | 2-aminophenyl-2-pyridyl ketone | 4.8 mmol, 0.95 g | NC1=C(C=CC=C1)C=1C(=NC=CC1)C(=O)C1=NC=CC=C1C1=C(C=CC=C1)N | C23H18N4O
reactant | urea | 8.3 mmol, 500 mg | NC(=O)N | CH4N2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-(pyridin-2-yl)quinazolin-2(1H)-one | 0.83 g, 78% | N1=C(C=CC=C1)C1=NC(NC2=CC=CC=C12)=O | C13H9N3O
